US04642322
48 parts of NaOH are introduced into 300 parts of water. 41.6 parts of NH2OH.HCl are added in portions, with cooling, followed by 45.2 parts of methyl anthranilate. After the mixture has been left to stand at room temperature for 3 days, the solution is concentrated and concentrated hydrochloric acid is added to the residue thus obtained until the pH is 6. After the mixture has been filtered and the filtrate has been washed with ethanol, anthranilic acid hydroxylamide is obtained as colourless crystals of melting point 140°-142° C. with a yield of 85%.

reactant | NaOH | [OH-].[Na+]
reactant | NH2OH.HCl | NO.Cl
reactant | methyl anthranilate | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
solvent | water | O | H2O
product | anthranilic acid hydroxylamide | yield of 85% | ONC(C=1C(N)=CC=CC1)=O | C7H8N2O2
